US05013749
5-(4-Fluorophenyl)-2-(1-methylethyl)-4-phenyl-1H-imidazole
To a stirred solution of 1-(4-fluorophenyl)-2-phenylethan-1,2-dione (1.0 g) in acetic acid (25 ml) and acetic anhydride (3 ml) containing ammonium acetate (5.0 g) was added isobutyraldehyde (0.5 g) and the reaction mixture was warmed to 110° for 2 h. The mixture was poured into aqueous ammonium hydroxide at 0° and the deposited solid was collected by filtration, then washed sequentially with ether and water then dried in vacuo to afford the title compound (1.09 g), λmax (EtOH) 252 (9550) and 287.8 nm (ε11,870).

reactant | 1-(4-fluorophenyl)-2-phenylethan-1,2-dione | 1.0 g | FC1=CC=C(C=C1)C(C(=O)C1=CC=CC=C1)=O | C14H9FO2
reactant | ammonium acetate | 5.0 g | C(C)(=O)[O-].[NH4+]
reactant | isobutyraldehyde | 0.5 g | C(C(C)C)=O | C4H8O
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
solvent | acetic anhydride | 3 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 5-(4-Fluorophenyl)-2-(1-methylethyl)-4-phenyl-1H-imidazole | 1.09 g | FC1=CC=C(C=C1)C1=C(N=C(N1)C(C)C)C1=CC=CC=C1 | C18H17FN2
